US07968566B2
But using 0.98 g of 4-chloro-2-[1-(2-iodoethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine, 0.21 g of potassium carbonate and 0.31 g of 1-methylpiperazine in 100 ml of acetonitrile. After flash chromatography on a silica column [eluent: dichloromethane/methanol (90/10 by volume)], 0.52 g of 4-chloro-2-{5,6-dimethoxy-1-[2-(4-methylpiperazin-1-yl)ethyl]-1H-indol-3-yl}-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is thus obtained in the form of an oil, the characteristics of which are as follows:

reactant | 4-chloro-2-[1-(2-iodoethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.98 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCI)S(=O)(=O)C2=CC=C(C=C2)C | C26H23ClIN3O4S
reactant | potassium carbonate | 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methylpiperazine | 0.31 g | CN1CCNCC1 | C5H12N2
reactant | dichloromethane methanol | ClCCl.CO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-chloro-2-{5,6-dimethoxy-1-[2-(4-methylpiperazin-1-yl)ethyl]-1H-indol-3-yl}-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.52 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCN2CCN(CC2)C)S(=O)(=O)C2=CC=C(C=C2)C | C31H34ClN5O4S
